US07425568B2
2-[2-(3-Methoxyphenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 2-(3-methoxyphenyl)chroman-6-ol. 1H NMR (400 MHz, d6-DMSO) δ: 9.04 (d, 1H, J 2.9Hz), 8.60 (dd, 1H, J 9.1, 2.9 Hz), 7.32 (t, 1H, J 15.7, 7.9 Hz), 7.20 (d, 1H, J 9.1 Hz), 7.03 (d, 1H, J 8.4 Hz), 7.01 (s, 1H), 7.00 (d, 1H, J 2.8 Hz), 6.96 (dd, 1H, J 8.7, 2.8 Hz), 6.92 (d, 1H, J 8.7 Hz), 6.90 (dd, 1H, J 8.4, 2.6 Hz), 5.12 (dd, 1H, J 10.0, 2.3 Hz), 3.77 (s, 3H), 2.93-2.97 (m, 1H), 2.71-2.77 (m, 1H), 2.15-2.20 (m, 1H), 1.99-2.05 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(3-methoxyphenyl)chroman-6-ol | COC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C16H16O3
product | 2-[2-(3-Methoxyphenyl)chroman-6-yloxy]-5-nitropyridine | COC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C21H18N2O5
